US07528147B2
2-[5-Methoxy-6-(2-hydroxyethoxy)-1-methyl-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure as described in example 89a, but using 0.5 g of 2-[5-methoxy-6-(2-acetyloxyethoxy)-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 8.43 ml of a 5N aqueous potassium hydroxide solution. After purification by flash-pack chromatography (silica, 95/05 by volume dichloromethane/methanol as eluents, argon), 0.103 g of 2-[5-methoxy-6-(2-hydroxyethoxy)-1-methyl-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine is obtained, the characteristics of which are as follows:

reactant | 2-[5-methoxy-6-(2-acetyloxyethoxy)-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.5 g | COC=1C=C2C(=CN(C2=CC1OCCOC(C)=O)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C28H27N3O6S
reactant | potassium hydroxide | 5N | [OH-].[K+]
product | 2-[5-methoxy-6-(2-hydroxyethoxy)-1-methyl-1H-indol-3-yl]-1H-pyrrolo[2,3-b]pyridine | 0.103 g | COC=1C=C2C(=CN(C2=CC1OCCO)C)C1=CC=2C(=NC=CC2)N1 | C19H19N3O3
